US07420001B2
To 80 mg of 5,7-dichloro-4-methoxy-3-methyl-benzofuran-2-carboxylic acid was added 120 mg of (S)-2-(4′-amino-biphenyl-4-sulfonylamino)-3-methyl-butyric acid tert-butyl ester, 154 mg of BOP, 50 mg of N,N-diisopropylethylamine and 4 mL of DMF. The mixture was stirred at room temperature for 48 h. The mixture was washed with brine and was extracted with ethyl acetate. The combined ethyl acetate layers were washed with brine. Removal of the solvent in vacuo and purification of the residue by column chromatography on silica gel gave 110 mg (60% yield) of (S)-2-{4′-[(5,7-dichloro-4-methoxy-3-methyl-benzofuran-2-carbonyl)-amino]-biphenyl-4-sulfonylamino}-3-methyl-butyric acid tert-butyl ester as an off-white solid.

reactant | 5,7-dichloro-4-methoxy-3-methyl-benzofuran-2-carboxylic acid | 80 mg | ClC=1C=C(C2=C(C(=C(O2)C(=O)O)C)C1OC)Cl | C11H8Cl2O4
reactant | (S)-2-(4′-amino-biphenyl-4-sulfonylamino)-3-methyl-butyric acid tert-butyl ester | 120 mg | C(C)(C)(C)OC([C@H](C(C)C)NS(=O)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)N)=O | C21H28N2O4S
reactant | BOP | 154 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | N,N-diisopropylethylamine | 50 mg | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | (S)-2-{4′-[(5,7-dichloro-4-methoxy-3-methyl-benzofuran-2-carbonyl)-amino]-biphenyl-4-sulfonylamino}-3-methyl-butyric acid tert-butyl ester | 110 mg, 60% yield | C(C)(C)(C)OC([C@H](C(C)C)NS(=O)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)NC(=O)C=1OC2=C(C1C)C(=C(C=C2Cl)Cl)OC)=O | C32H34Cl2N2O7S
